US08957068B2
To a solution of (S)-3-(2-((S)-1-(4-bromophenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one (1.62 g, 4 mmol) in THF (20 mL) was added di-tert-butyl dicarbonate (1.31 g, 6 mmol), DMAP (49 mg, 0.4 mmol) and DIPEA (1.40 mL, 8 mmol). The solution was stirred at 50° C. for 7 days then concentrated under reduced pressure. The residue was diluted with EtOAc (40 mL) and washed with water and brine. The organic layer was dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (EtOAc/heptane 0 to 80%) provided tert-butyl (S)-1-(4-bromophenyl)ethyl(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-yl)carbamate as a white solid (1.03 g, 50.9% yield).

reactant | (S)-3-(2-((S)-1-(4-bromophenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 4 mmol, 1.62 g | BrC1=CC=C(C=C1)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C18H21BrN4O2
reactant | di-tert-butyl dicarbonate | 6 mmol, 1.31 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 8 mmol, 1.40 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.4 mmol, 49 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl (S)-1-(4-bromophenyl)ethyl(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-yl)carbamate | 1.03 g, 50.9% yield | BrC1=CC=C(C=C1)[C@H](C)N(C(OC(C)(C)C)=O)C1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C23H29BrN4O4
